US09238639B2
Methyl 6-((2,4-dichlorobenzyl)oxy)-3-(methoxymethyl)-2,3-dihydro-1-benzofuran-3-carboxylate
To a mixture of methyl 6-((2,4-dichlorobenzyl)oxy)-3-(hydroxymethyl)-2,3-dihydro-1-benzofuran-3-carboxylate (89 mg) in toluene (2.0 mL) were added silver(I)oxide (135 mg) and iodomethane (0.217 mL). The mixture was stirred at 70° C. for 2 d. After cooling, the residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (65.8 mg).

reactant | methyl 6-((2,4-dichlorobenzyl)oxy)-3-(hydroxymethyl)-2,3-dihydro-1-benzofuran-3-carboxylate | 89 mg | ClC1=C(COC2=CC3=C(C(CO3)(C(=O)OC)CO)C=C2)C=CC(=C1)Cl | C18H16Cl2O5
reactant | iodomethane | 0.217 mL | IC | CH3I
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | silver(I)oxide | 135 mg | [Ag-]=O
product | Methyl 6-((2,4-dichlorobenzyl)oxy)-3-(methoxymethyl)-2,3-dihydro-1-benzofuran-3-carboxylate | 65.8 mg | ClC1=C(COC2=CC3=C(C(CO3)(C(=O)OC)COC)C=C2)C=CC(=C1)Cl | C19H18Cl2O5
